US05559111
n) 4-Methoxy-3-(3-methoxypropyloxy)-benzyl alcohol
7.7 g of 3-hydroxy-4-methoxy-benzyl alcohol, 10.35 g of potassium carbonate and 12.1 g of 1-bromo-3-methoxy-propane are stirred under reflux in 150 ml of acetone for 3 days. After evaporation of the solvent, water is added to the residue and extraction is carried out with ethyl acetate. After evaporation of the solvent the title compound is obtained from the organic extracts by means of FC (240 g of silica gel, dichloromethane/methanol=96:4): Rf (ethyl acetate/hexane=2:1)=0.31.

reactant | 3-hydroxy-4-methoxy-benzyl alcohol | 7.7 g | OC=1C=C(CO)C=CC1OC | C8H10O3
reactant | potassium carbonate | 10.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methoxy-propane | 12.1 g | BrCCCOC | C4H9BrO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-Methoxy-3-(3-methoxypropyloxy)-benzyl alcohol | COC1=C(C=C(CO)C=C1)OCCCOC | C12H18O4
